US07414051B2
Preparation of 1-[3-(2-Chloroethoxy)-5-fluoro-2-nitrophenylmethanesulfonyl]-naphthalene
A mixture of 2-(2-chloroethoxy)-4-fluoro-1-nitro-benzene (1.3 g, 6 mmoles) and 1-chloromethane-sulfonyl-naphthalene (2.16 g, 9 mmoles) in THF, under nitrogen, was stirred at −78° C., treated dropwise with a solution of 1M potassium t-butoxide (18 ml, 18 mmoles) over a 30 min. period, allowed to warm to −40° C., stirred at −40° C. for 5 hours, poured into cold 2N HCl and extracted with EtOAc. The extracts were combined, dried over Na2SO4, and concentrated under vacuum. The resultant residue was recrystallized from CH2Cl2/hexane to afford the title compound as an off-white solid (2.25 g, 5.3 mmoles), identified by HNMR and mass spectral analyses.

reactant | 2-(2-chloroethoxy)-4-fluoro-1-nitro-benzene | 6 mmoles, 1.3 g | ClCCOC1=C(C=CC(=C1)F)[N+](=O)[O-] | C8H7ClFNO3
reactant | 1-chloromethane-sulfonyl-naphthalene | 9 mmoles, 2.16 g | ClCS(=O)(=O)C1=CC=CC2=CC=CC=C12 | C11H9ClO2S
reactant | potassium t-butoxide | 18 mmoles, 1M, 18 ml | CC(C)([O-])C.[K+]
reactant | HCl | 2N | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | 1-[3-(2-Chloroethoxy)-5-fluoro-2-nitrophenylmethanesulfonyl]-naphthalene | 5.3 mmoles, 2.25 g | ClCCOC=1C(=C(C=C(C1)F)CS(=O)(=O)C1=CC=CC2=CC=CC=C12)[N+](=O)[O-] | C19H15ClFNO5S
